US06750199B2
N-hexadecylsulfonyl-(O-t-butyl)-L-aspartic acid (189 mg, 0.395 mmol, 1-hydroxybenzotriazole (55 mg, 0.395 mmol) and dicyclohexylcarbodiimide (83 mg, 0.395 mmol) in 0.50 mL of dimethylformamide was stirred at room temperature for forty five minutes. A 0.050 mL aliquot of this solution was added to the tetrabutylammonium salt of the amino core cyclic peptide of laspartomycin in 0.2 mL of dimethylformamide and stirred at room temperature for sixty minutes. The reaction mixture was quenched by dilution with 8 mL of 25% acetonitrile, 0.12 M in ammonium phosphate (pH 7.2), aged at room temperature, then membrane filtered (Whatman GD/X). The product was isolated from the filtrate by low resolution reverse phase chromatography on a 5 g styrene-divinylbenzene resin cartridge (25×45 mm, Supelco EnviChrom-P). The sample-loaded cartridge was eluted with stepwise increasing concentrations of acetonitrile in sodium phosphate (aqueous pH 6.9); the product was eluted with 57% acetonitrile, 0.010 M in pH 6.9 buffer. The material was then desalted as described in Section 5.4.3. Yield: 4.7 mg of white solid, 69% by HPLC (215 nm area %); C62H104N12O20S.

reactant | N-hexadecylsulfonyl-(O-t-butyl)-L-aspartic acid | C(CCCCCCCCCCCCCCC)S(=O)(=O)N[C@@H](CC(=O)O)C(=O)OC(C)(C)C | C24H47NO6S
reactant | 1-hydroxybenzotriazole | 0.395 mmol, 55 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.395 mmol, 83 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
product | styrene-divinylbenzene | 5 g | C(=C)C1=C(C=CC=C1)C=C.C=CC1=CC=CC=C1 | InChI=1S/C10H10.C8H8/c1-3-9-7-5-6-8-10(9)4-2;1-2-8-6-4-3-5-7-8/h3-8H,1-2H2;2-7H,1H2
